US07723332B2
According to general procedure B, 4-bromobenzenesulfonamide (472 mg, 2.0 mmol), 5-cyano-1-methyl-1H-pyrrol-2-ylboronic acid (360 mg, 2.4 mmol), potassium fluoride (350 mg, 6.0 mmol), and tris(dibenzylideneacetone)-dipalladium (48 mg, 0.05 mmol) were placed in an oven dried flask under nitrogen and dry THF (5 mL) was added. Tri-t-butylphosphine (0.30 mL, 0.1 mmol, 10 wt % in hexane) was added and the reaction was stirred for 16 hours. Purification afforded 4-(5-cyano-1-methyl-1H-pyrrol-2-yl)benzenesulfonamide (190 mg). MS (ES) m/z 261.8; HPLC purity 99.6% at 210-370 nm, 7.1 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min., 85/15-5/95 (ammonium formate buffer pH=3.5/ACN+MeOH) for 10 min., hold 4 min.

reactant | 4-bromobenzenesulfonamide | 2.0 mmol, 472 mg | BrC1=CC=C(C=C1)S(=O)(=O)N | C6H6BrNO2S
reactant | 5-cyano-1-methyl-1H-pyrrol-2-ylboronic acid | 2.4 mmol, 360 mg | C(#N)C1=CC=C(N1C)B(O)O | C6H7BN2O2
reactant | potassium fluoride | 6.0 mmol, 350 mg | [F-].[K+]
reactant | Tri-t-butylphosphine | 0.1 mmol, 0.30 mL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | tris(dibenzylideneacetone)-dipalladium | 0.05 mmol, 48 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(5-cyano-1-methyl-1H-pyrrol-2-yl)benzenesulfonamide | 190 mg | C(#N)C1=CC=C(N1C)C1=CC=C(C=C1)S(=O)(=O)N | C12H11N3O2S
